US07247644B2
6-[2-(1H-Tetrazol-5-yl)-ethyl]-decahydro-isoquinoline-3-carboxylic acid 2-ethyl-butyl ester
To a solution of 2.5 g (8.4 mmol) of 6-[2-(1H-Tetrazol-5-yl)-ethyl]-decahydro-isoquinoline-3-carboxylic acid monohydrate (prepared as described in J. Med. Chem., 39 (11), pp. 2232-2244, (1996) or U.S. Pat. No. 5,670,516 (issued Sep. 23, 1997)) in 20 ml of 2-ethyl-1-butanol, 6.8 ml (92.8 mmol) of thionyl chloride is added. The solution is stirred at 120° C. for 3 hr. The mixture is concentrated in vacuo and the residue washed with ethyl ether. The residue is purified by SPE (Oasis HLB) to afford the title compound.

reactant | 6-[2-(1H-Tetrazol-5-yl)-ethyl]-decahydro-isoquinoline-3-carboxylic acid monohydrate | 8.4 mmol, 2.5 g | O.N1N=NN=C1CCC1CC2CC(NCC2CC1)C(=O)O
reactant | thionyl chloride | 92.8 mmol, 6.8 ml | S(=O)(Cl)Cl | Cl2OS
solvent | 2-ethyl-1-butanol | 20 ml | C(C)C(CO)CC | C6H14O
product | 6-[2-(1H-Tetrazol-5-yl)-ethyl]-decahydro-isoquinoline-3-carboxylic acid 2-ethyl-butyl ester | C(C)C(COC(=O)C1NCC2CCC(CC2C1)CCC1=NN=NN1)CC | C19H33N5O2
